US04481268
2-Chloro-6-methyl nicotinic acid (3.5 g, 0.02 m) was refluxed with hydrazine hydrate (5 ml) and absolute alcohol (20 ml) for 5 hours. The solid was separated, washed with alcohol and crystallised from water to yield 50% of 2-hydrazino-6-methylnicotinic acid.

reactant | 2-Chloro-6-methyl nicotinic acid | 3.5 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | hydrazine hydrate | 5 ml | O.NN
product | 2-hydrazino-6-methylnicotinic acid | 50% | N(N)C1=C(C(=O)O)C=CC(=N1)C | C7H9N3O2
